US04710491
N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-stearic acid amide
3 g of N-(2-acetamido-2-deoxy-D-glucopyranosyl)-dodecylamine, the preparation of which is described in Example 55, were reacted with stearoyl chloride as described in Example 55.

reactant | N-(2-acetamido-2-deoxy-D-glucopyranosyl)-dodecylamine | 3 g | C(C)(=O)N[C@H]1C(O[C@@H]([C@H]([C@@H]1O)O)CO)NCCCCCCCCCCCC | C20H40N2O5
reactant | stearoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-stearic acid amide | C(CCCCCCCCCCC)N(C(CCCCCCCCCCCCCCCCC)=O)C1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O | C38H74N2O6
